US07435837B2
To a solution of (±)-3-[2-(benzyloxy)-3-methoxyphenyl]propane-1,2-diol (50.23 g, 0.174 mol) in N,N-dimethylformamide (600 mL) was added tert-butyldimethylsilyl chloride (28.88 g, 0.192 mol) followed by triethylamine (22.03 g, 0.218 mol) and 4-(dimethylamino)pyridine (2.12 g, 0.017 mol) and the reaction mixture was allowed to stir at room temperature for 6 h. The reaction mixture was quenched by the addition of water (1000 mL) and was extracted with ethyl acetate (3×300 mL). The combined organic extracts were washed with water (4×300 mL), aqueous hydrogen chloride (1.0 N, 400 mL), saturated aqueous sodium chloride (300 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 3:7) provided 58.14 g (83%) of (±)-1-[2-(benzyloxy)-3-methoxyphenyl]-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol as a colorless oil. Rf=0.48 (silica, ethyl acetate:hexanes 3:7); Anal. calcd. for C23H34O4Si: C, 68.62; H, 8.51. Found: C, 69.20; H, 8.91.

reactant | (±)-3-[2-(benzyloxy)-3-methoxyphenyl]propane-1,2-diol | 0.174 mol, 50.23 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1OC)CC(CO)O | C17H20O4
reactant | tert-butyldimethylsilyl chloride | 0.192 mol, 28.88 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 0.218 mol, 22.03 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 600 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 0.017 mol, 2.12 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (±)-1-[2-(benzyloxy)-3-methoxyphenyl]-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol | 58.14 g, 83% | C(C1=CC=CC=C1)OC1=C(C=CC=C1OC)CC(CO[Si](C)(C)C(C)(C)C)O | C23H34O4Si
